* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4098-2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
Vin IN 0 SINE(0 10m 100k)
R1 N001 0 1k
R2 OUT N001 1k
V2 -V 0 -5
R3 OUT 0 10k
C1 OUT 0 10p
X§U1 IN N001 +V -V OUT NC_01 ADA4098-1
.tran 100u
.lib ADA4098-1.lib
.backanno
.end
